US06004977
N-[2-(4-methoxy-3-methyl-phenyl)ethylidene]-N'-pyridin-4-ylhydrazine hydrochloride
To a solution of 1-methoxy-2-methyl-4-(2-methoxyvinyl)benzene (17 g) and 4-hydrazinopyridine hydrochloride (15.4 g) in ethanol (300 ml), p-toluenesulfonic acid (2.7 g) was added, with stirring. The reaction mixture was stirred under reflux for 2 hrs, filtered, and the filtrate was concentrated in vacuo. The residue was recrystallized from methanol to yield 10.9 g (39%) of product, mp 224-226° C.

reactant | 1-methoxy-2-methyl-4-(2-methoxyvinyl)benzene | 17 g | COC1=C(C=C(C=C1)C=COC)C | C11H14O2
reactant | 4-hydrazinopyridine hydrochloride | 15.4 g | Cl.N(N)C1=CC=NC=C1
reactant | p-toluenesulfonic acid | 2.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-[2-(4-methoxy-3-methyl-phenyl)ethylidene]-N'-pyridin-4-ylhydrazine hydrochloride | 10.9 g, 39% | Cl.COC1=C(C=C(C=C1)CC=NNC1=CC=NC=C1)C | InChI=1S/C15H17N3O.ClH/c1-12-11-13(3-4-15(12)19-2)5-10-17-18-14-6-8-16-9-7-14;/h3-4,6-11H,5H2,1-2H3,(H,16,18);1H
